US06521643B1
To a stirred solution of 2,3-lutidine (3.21 g) in tetrahydrofuran (20 ml) was added a solution of n-butyllithium in n-hexane (1.56M, 23.1 ml) dropwise at −50° C. under a nitrogen atmosphere, and the mixture was warmed to 0° C. The mixture was cooled to −50° C., and N,N-dimethylacetamide (3.63 ml) was added dropwise. Then the mixture was warmed to room temperature, poured into a saturated aqueous ammonium chloride solution and extracted with ethyl acetate (100 ml×3). The combined organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 100 g, n-hexane:ethyl acetate=1:2) to give 1-(3-methylpyridin-2-yl)propan-2-one (3.70 g).

reactant | 2,3-lutidine | 3.21 g | N1=C(C(=CC=C1)C)C | C7H9N
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-dimethylacetamide | 3.63 ml | CN(C(C)=O)C | C4H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.56M, 23.1 ml | CCCCCC | C6H14
product | 1-(3-methylpyridin-2-yl)propan-2-one | 3.70 g | CC=1C(=NC=CC1)CC(C)=O | C9H11NO
